US09278944B2
To a solution of 1-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethanone (500 mg) and methyl (3-bromopropyl)carbamate (912 mg) in N,N-dimethylformamide (5 mL) was added potassium carbonate (864 mg), and the mixture was stirred at room temperature for 3 days. To the reaction solution was added ethyl acetate, and the mixture was washed with saturated saline, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=95/5→1/1) to give methyl [3-(3-acetyl-1H-pyrazolo-[3,4-b]pyridin-1-yl)propyl]carbamate) [REx(103-2)] (308 mg) as a red oil.

reactant | 1-(1H-pyrazolo[3,4-b]pyridin-3-yl)ethanone | 500 mg | N1N=C(C=2C1=NC=CC2)C(C)=O | C8H7N3O
reactant | methyl (3-bromopropyl)carbamate | 912 mg | BrCCCNC(OC)=O | C5H10BrNO2
reactant | potassium carbonate | 864 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | methyl [3-(3-acetyl-1H-pyrazolo-[3,4-b]pyridin-1-yl)propyl]carbamate | C(C)(=O)C1=NN(C2=NC=CC=C21)CCCNC(OC)=O | C13H16N4O3
